US05993780
a. 5-Amino-3-acetoxymethyl-N,N-bis(2-hydroxyethyl)-2,4,6-triiodobenzamide
5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride was reacted with diethanolamine according to the general procedure in Example 24g. Yield of isolated crude product was 98%.

reactant | 5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)COC(C)=O)I | C10H7ClI3NO3
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 5-Amino-3-acetoxymethyl-N,N-bis(2-hydroxyethyl)-2,4,6-triiodobenzamide | NC=1C(=C(C(=C(C(=O)N(CCO)CCO)C1I)I)COC(C)=O)I | C14H17I3N2O5
